US05332717
1.0 g of 7-hydroxy-3-methyl-isobenzofuran-1(3H)-thione is introduced into a suspension of 0.15 g of sodium hydride in absolute dimethylformamide and, when the evolution of hydrogen has ceased, 1.0 g of 2-chloro-4,6-dimethoxy-1,3,5-triazine is added thereto. The reaction mixture is subsequently stirred at room temperature for 5 hours, ice-water is then added and the whole is extracted with ethyl acetate and washed with sodium chloride solution. The crude product, having been concentrated by evaporation, is purified by chromatography (eluant: 45% ethyl acetate in n-hexane) and recrystallised from acetone/n-hexane to yield 7-[(4,6-dimethoxy-1,3,5-triazin-2-yl)oxy]-3-methyl-isobenzofuran-1(3H)-thione in the form of yellow crystals, m.p. 177°-178° C.; IR spectrum (CHCl3): 1590, 1560, 1366, 1304, 1140 cm-1 ; 1H-NMR (CDCl3): 5.81 ppm (q, 1H), 1.73 ppm (d, 3H).

reactant | 7-hydroxy-3-methyl-isobenzofuran-1(3H)-thione | 1.0 g | OC=1C=CC=C2C(OC(C12)=S)C | C9H8O2S
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 1.0 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-[(4,6-dimethoxy-1,3,5-triazin-2-yl)oxy]-3-methyl-isobenzofuran-1(3H)-thione | COC1=NC(=NC(=N1)OC)OC=1C=CC=C2C(OC(C12)=S)C | C14H13N3O4S
